US06417213B2
[[2-(3,3-Diphenylpropyl)thio-4,6-dimethyl-8H-indeno[1,2-d]thiazol-7-yl]oxy]acetic acid
Using ethyl [(2-mercapto-4,6-dimethyl-8H-indeno[1,2-d]thiazol-7-yl)oxy]acetate and 3,3-diphenylpropyl iodide, the procedure of Example 21 was otherwise repeated to synthesize the title compound. Yield 55%.

reactant | ethyl [(2-mercapto-4,6-dimethyl-8H-indeno[1,2-d]thiazol-7-yl)oxy]acetate | SC=1SC2=C(N1)C=1C(=CC(=C(C1C2)OCC(=O)OCC)C)C | C16H17NO3S2
reactant | 3,3-diphenylpropyl iodide | C1(=CC=CC=C1)C(CCI)C1=CC=CC=C1 | C15H15I
product | [[2-(3,3-Diphenylpropyl)thio-4,6-dimethyl-8H-indeno[1,2-d]thiazol-7-yl]oxy]acetic acid | Yield 55% | C1(=CC=CC=C1)C(CCSC=1SC2=C(N1)C=1C(=CC(=C(C1C2)OCC(=O)O)C)C)C2=CC=CC=C2 | C29H27NO3S2
